US08629158B2
a) 2′-Methoxy-5-(trifluoromethyl)-2,4′-bipyridine (CAS Registry Number 1108184-24-2) (WO 2009/015037 to Guzzo et al., which is hereby incorporated by reference in its entirety)
2-Bromo-5-trifluoromethylpyridine (410 mg, 2.13 mmol) and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (500 mg, 1.81 mmol) were reacted according to Example 3 (step a) to provide the title compound (337 mg, 62%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 8.96 (s, 1H), 8.31 (d, J=5.4 Hz, 1H), 8.04 (dd, J=8.3, 2.1 Hz, 1H), 7.87 (d, J=8.3 Hz, 1H), 7.51 (dd, J=5.4, 1.4 Hz, 1H), 7.36 (s, 1H), 3.52 (s, 3H).

reactant | 2-Bromo-5-trifluoromethylpyridine | 2.13 mmol, 410 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.81 mmol, 500 mg | COC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO3
product | 2′-Methoxy-5-(trifluoromethyl)-2,4′-bipyridine | 337 mg, 62% | COC1=NC=CC(=C1)C1=NC=C(C=C1)C(F)(F)F | C12H9F3N2O
